US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 17, using 1.92 g (8.96 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide which was prepared in the same manner as in Reference Example 2 and 3-(N-t-butyloxycarbonyl-N-methylamino)propionic acid, instead of 3-pyridylacetic acid hydrochloride, to obtain 2.56 g of 4-(3-(N-t-butyloxycarbonyl-N-methylamino)propanoylamino)-1-benzyl-5-imidazole carboxamide (yield 72%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 8.96 mmol, 1.92 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | 3-(N-t-butyloxycarbonyl-N-methylamino)propionic acid | C(C)(C)(C)OC(=O)N(C)CCC(=O)O | C9H17NO4
reactant | 3-pyridylacetic acid hydrochloride | Cl.N1=CC(=CC=C1)CC(=O)O
product | 4-(3-(N-t-butyloxycarbonyl-N-methylamino)propanoylamino)-1-benzyl-5-imidazole carboxamide | 2.56 g, yield 72% | C(C)(C)(C)OC(=O)N(C)CCC(=O)NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C20H27N5O4
